US08470810B2
46.6 4-Isopropyl-N-[6-(1-propyl-azetidin-3-yl)-pyridin-3-yl]-benzenesulfonamide
To a solution of 4-isopropyl-N-[6-(1-propionyl-azetidin-3-yl)-pyridin-3-yl]-benzenesulfonamide (150 mg, 0.38 mmol) in THF (15 ml) was added dropwise 1M BH3. THF (3.8 ml) and the mixture was stirred at room temperature for 12 h. It was then quenched by careful addition of 1N aqueous HCl (10 ml) and the resulting solution was heated at reflux for 4 h. The solution was next cooled to room temperature, adjusted to pH˜8 with 2 N NaOH solution and diluted with CH2Cl2. Separation of the layers, drying (Na2SO4) of the organic phase, filtration and evaporation in vacuo provided the crude material, which was purified by flash column chromatography (CH2Cl2:methanol, 95:5) to give the title compound (95 mg, 66%) as a light yellow oil.

reactant | 4-isopropyl-N-[6-(1-propionyl-azetidin-3-yl)-pyridin-3-yl]-benzenesulfonamide | 0.38 mmol, 150 mg | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=NC(=CC1)C1CN(C1)C(CC)=O | C20H25N3O3S
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 3.8 ml | C1CCOC1 | C4H8O
product | 4-Isopropyl-N-[6-(1-propyl-azetidin-3-yl)-pyridin-3-yl]-benzenesulfonamide | 95 mg, 66% | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=NC(=CC1)C1CN(C1)CCC | C20H27N3O2S
